data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][OH2+:21].C[O-:10]>>[H:20][O:10]C.[OH2:21] 10=20;20,21=21
CC1(OC(C(O1)C(C(OC(=O)C(F)(F)F)SC)OCC2=CC=CC=C2)C([CH-:10][S+:20](C)[O:21]C(=O)C(F)(F)F)OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)O>>CC1(OC(C(O1)C(C(OC(=O)C(F)(F)F)SC)OCC2=CC=CC=C2)C([CH:10]=[S+:20]C)OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)[O-:21].C(=O)(C(F)(F)F)O 10=20;20,21=21
[H:20][N+:21]1=C(C=C(C=C1C)C)C.CC1=CC2=C(O1)CC([C:10]2=[C:11]([O-:12])OCC3=CC=CC=C3)(C)C.N#N>>[H:20][C:10]1(C2=C(CC1(C)C)OC(=C2)C)[C:11](=[O:12])OCC3=CC=CC=C3.CC1=CC(=[N:21]C(=C1)C)C.N#N 10,11=10,20;20,21=21;12=11
C1CC2C(C1)C2([O-])[OH+:11][Na:10].[OH2+][Na].[Cl-]>>C1CC2C(C1)C2([OH:11])[O-].[Na+:10].[OH2+][Na].[Cl-] 10,11=11
C[Si](C)(C)C[CH:11]=[CH2:10].[CH2:20]=[O+:21][Sc-]>>C[Si](C)(C)C[CH+:11][CH2:10][CH2:20][O:21][Sc-] 10,11=10,20;20,21=21
C1=CC=C(C=C1)C=CC[O-:10].C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C1CCOC1.C(Br)(Br)Br>>C1=CC=C(C=C1)C=CC[O:10][P:20](C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)Br.C1CCOC1.C(Br)(Br)Br 10=20,
C[C+:20]=O.C1=CC2=CC=C(C=C2[CH:10]=[CH:11]1)[N+](=O)[O-]>>C[C:20](=O)[CH:10]1[CH+:11]C=CC2=CC=C(C=C12)[N+](=O)[O-] 10,11=10,20
[H:20][OH2+:21].C1CC(CCC1C(C2=CC=CC=C2)(C3=CC=CC=C3)O)(O)[O:10]CCO>>[H:20][O+:10](CCO)C1(CCC(CC1)C(C2=CC=CC=C2)(C3=CC=CC=C3)O)O.[OH2:21] 10=20;20,21=21
[H:20][O:21]P(=O)(O)O.CC(C)C(C)[OH:10]>>[H:20][OH+:10]C(C)C(C)C.OP(=O)(O)[O-:21] 10=20;20,21=21
[H:20][O:21]P(=O)(O)[O-].CC(=O)NC(CC1=CC(=C(C=C1)[O-:10])I)C(=O)NC.[B-](F)(F)(F)F.C1C[N+]2(CCN1CC2)CCl.[F-]>>OP(=O)([O-:21])[O-].[H:20][O:10]C1=C(C=C(C=C1)CC(C(=O)NC)NC(=O)C)I.[B-](F)(F)(F)F.C1C[N+]2(CCN1CC2)CCl.[F-] 10=20;20,21=21
CC[C:10](C)(CCCC(C)(C)C1=CC=CC=C1)[Cl+:11][Al-](Cl)(Cl)Cl>>CC[C+:10](C)CCCC(C)(C)C1=CC=CC=C1.[Al-](Cl)(Cl)(Cl)[Cl:11] 10,11=11
CC1=CC=C(C=C1)S(=O)(=O)[N-][N+:21]#[N:20].C=CCO[C:11](=[CH:10]C1=CC=CC=C1)[O-:12].C1CCC2=[NH+]CCCN2CC1>>CC1=CC=C(C=C1)S(=O)(=O)[N-][N:21]=[N:20][CH:10](C2=CC=CC=C2)[C:11](=[O:12])OCC=C.C1CCC2=[NH+]CCCN2CC1 10,11=10,20;20,21=21;12=11
[H:20][C:21]1([CH+:22]C(=CO1)C#N)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C(=CO1)C#N 10=20;20,21=21,22
[H:20][O:21]C(=O)CCCCCCCC=CCCCCCCCC.CCCCCCCCC=CCCCCCCCC(=O)OC(=[N:10]C1CCCCC1)NC2CCCCC2.CN(C)C1=CC=NC=C1.C1=CC=C(C=C1)CO>>[H:20][N+:10](=C(NC1CCCCC1)OC(=O)CCCCCCCC=CCCCCCCCC)C2CCCCC2.CCCCCCCCC=CCCCCCCCC(=O)[O-:21].CN(C)C1=CC=NC=C1.C1=CC=C(C=C1)CO 10=20;20,21=21
CC[CH:20]=[CH:21][C:22](=[O:23])O[Na].O[O-:10]>>CC[CH:20]([CH:21]=[C:22]([O-:23])O[Na])[O:10]O 10=20;22,23=23;20,21=21,22
[B-]([O+]=C1CCC[C+:20](CC(=C)[CH-]1)[C:11](C)(C)[CH3:10])(Cl)(Cl)Cl>>[B-]([O+]=C1CCC[C:20](CC(=C)[CH-]1)([CH3:10])[C+:11](C)C)(Cl)(Cl)Cl 10,11=10,20
CCO[C:20](=[O:21])CCC(=O)N(C)C.C[NH2:10]>>CCO[C:20](CCC(=O)N(C)C)([NH2+:10]C)[O-:21] 10=20;20,21=21
CS(=O)(=O)[O-].C1CC[C:20]2(C(=CCC[O:10]2)C1)[OH2+:21]>>CS(=O)(=O)[O-].C1CC[C:20]2=[O+:10]CCC=C2C1.[OH2:21] 10=20;20,21=21
CCO[C:20](=[O:21])C.[OH-:10].CCCC[N+](CCCC)(CCCC)CCCC>>CCO[C:20](C)([OH:10])[O-:21].CCCC[N+](CCCC)(CCCC)CCCC 10=20;20,21=21
CCO[C:20]1(CCC[O:21]1)[O-:10]>>CCO[C:20](=[O:10])CCC[O-:21] 10=20;20,21=21
[H:20][O+:21]=C1CC(C2COC1(O2)CC)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCC12C(=[O:21])CC(C(O1)CO2)O 10=20;20,21=21
CC1=C(S[C:11](=[C:10](C(C)C)O)[N:12]1CC2=CC=CC=C2)CCO.C[C:22](=[O:23])[CH:21]=[CH2:20].CC[NH+](CC)CC.[Cl-]>>CC1=C(S[C:11](=[N+:12]1CC2=CC=CC=C2)[C:10]([CH2:20][CH:21]=[C:22](C)[O-:23])(C(C)C)O)CCO.CC[NH+](CC)CC.[Cl-] 10,11=10,20;12=11;22,23=23;20,21=21,22
C1CN[C:20](OC1)([O-:10])[Cl:21]>>C1CN[C:20](=[O:10])OC1.[Cl-:21] 10=20;20,21=21
[H:20][O+:21](C(C)([O-])OC(=O)C)N=CC(CO)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=O)OC(C)([O-])[O:21]N=CC(CO)O 10=20;20,21=21
[H:20][O:21]C(=O)CCC=O.C[NH2:10]>>[H:20][NH2+:10]C.C(CC(=O)[O-:21])C=O 10=20;20,21=21
[H:20][O+:21]=C1CCC2(C(=C1C)CCCC2=O)C.C1=CC=C(C=C1)CC(C(=O)[O-:10])[NH3+].CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.C1=CC=C(C=C1)CC(C(=O)O)N.O>>[H:20][O:10]C(=O)C(CC1=CC=CC=C1)[NH3+].CC1=C2CCCC(=O)C2(CCC1=[O:21])C.CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.C1=CC=C(C=C1)CC(C(=O)O)N.O 10=20;20,21=21
[H:10][C:11]1(CCC(CC1CCCCC)C)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CCCCC)C.CC(C)[O-] 10,11=10,20;20,21=21;12=11
[CH:11]1=[CH:10]OC=C1C#N.[N+:20](=O)=[O:21]>>C1=C([CH+:11][CH:10](O1)[N+:20](=O)[O-:21])C#N 10,11=10,20;20,21=21
CC(C)(C)[Si:20](C)(C)C1(SCCCS1)CC(COCC2=CC=C(C=C2)OC)[O-:10].[Li+].CC(C)C>>CC(C)(C)[Si-:20]1(C2(CC([O:10]1)COCC3=CC=C(C=C3)OC)SCCCS2)(C)C.[Li+].CC(C)C 10=20,
CC[OH:10].C[C:20](=[OH+:21])OC(=O)C>>CC[OH+:10][C:20](C)([OH:21])OC(=O)C 10=20;20,21=21
C[C:10]1=[C:11](C2C(O2)C(C1)(C)C)[O-:12].[CH2:20]=[O:21].C1CCC2=[NH+]CCCN2CC1>>CC1(C[C:10]([C:11](=[O:12])C2C1O2)(C)[CH2:20][O-:21])C.C1CCC2=[NH+]CCCN2CC1 10,11=10,20;20,21=21;12=11
[H:20][OH:21].CC1(CCC(=O)C1)[O-:10]>>[H:20][O:10]C1(CCC(=O)C1)C.[OH-:21] 10=20;20,21=21
CC1=CC=C(C=C1)[S:21](=O)(=O)[N-:20][N:10]=CC2=CN(C3=CC=CC=C32)S(=O)(=O)C4=CC=C(C=C4)C.[Li][OH+]C(C)(C)C>>CC1=CC=C(C=C1)[S-:21](=O)=O.CC1=CC=C(C=C1)S(=O)(=O)N2C=C(C3=CC=CC=C32)C=[N+:10]=[N-:20].[Li][OH+]C(C)(C)C 10=20;20,21=21
